Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
coffe-ground emesis and hematemesis, and melana
 
Major Surgical or Invasive Procedure:
EGD ___
 
History of Present Illness:
This is a ___ yom with history of Cirrhosis with HCV and 
alcoholism who presented to ___ yesterday morning 
for melena and coffee ground emesis.  Patient states symptoms 
began at 330pm two days ago while at work.  He began to feel 
nauseous and had one bout of coffee ground emesis.  He went home 
and had around 15 more coffee ground emesis along with several 
melanotic stools which he describes as black, loose and tarry.  
He remained at home until 5am yesterday when he reported to the 
___ ED.   Patient reports ___ more bouts of 
coffee ground emesis and melena at ___.  

 

In the ___ ED, patient vomited 200cc BRB and had 
one episode of melena with BRBPR.  He received 
Octreotide/Protonix gtt and CTX for SBP PPx.  He received 3L NS 
and given 2u FFP and 2u PRBC.   Patient was admitted into ICU.  
HCT on admission 25.8 which dropped to 22.9 and 22.4.  Patient 
received 4uPRBC during this drop.  Endoscopy was performed which 
showed no active bleeding but did show esophageal and gastric 
varices.   Given his likely recurrence of variceal bleeding, the 
patient was thought to be a TIPS candidate and was transferred 
to ___ for further evaluation.

At the MICU pt had 2 large bore IVs placed. Hepatology was 
consulted. EGD was performed and found to have 3 cords of grade 
II varices were seen in the lower third of the esophagus. There 
were stigmata of recent bleeding (red ___. 4 bands were 
successfully placed. His Hct remained stable s/p total of 6units 
pRBCs at around 31. Patient was kept on octreotide drip, PPI 
BID, ceftriaxone for bacteremia from variceal bleed. After EGD 
patient was started on sucralfate and diet was advanced. Pt's 
Hct was stable and was transferred to the floor.  
.  
Pt currently says that he feels week currently, and dizzy, and 
his stomach feels "sore" from vomitting. Pt last had emesis at 
___.  
.  
ROS: denies CP, futher n/v, cough, f/ch, hematuria, current 
melana, SOB, no pedal edema, denies any other symptoms  

 
Past Medical History:
HCV
EtOH
Cirrhosis
Variceal bleed in ___
 
Social History:
___
Family History:
Nc
 
Physical Exam:
T 99.4 Hr 75 BP 118/72 RR 13 SpO2 98% 2 L NC
GEN: Slim man in NAD
HEENT: NC/AT No scleral icterus. Dry MM
Lungs: CTAB
HEART: RRR No M/R/G
Abd: Normoactive BS. Soft. NT/ND. 
Extrem: No cyanosis/clubbing/edema
Neuro: Alert and oriented X 3. No hallucinations. No agitation. 
No anxiety.

 
Pertinent Results:
___ 05:21PM BLOOD WBC-4.6 RBC-3.93* Hgb-11.1* Hct-32.1* 
MCV-82 MCH-28.4 MCHC-34.6 RDW-17.0* Plt Ct-60*
___ 03:21AM BLOOD WBC-3.9* RBC-3.73* Hgb-10.6* Hct-30.7* 
MCV-82 MCH-28.6 MCHC-34.7 RDW-16.7* Plt Ct-56*
___ 05:21PM BLOOD ___ PTT-37.1* ___
___ 03:21AM BLOOD Glucose-82 UreaN-10 Creat-0.6 Na-135 
K-3.4 Cl-103 HCO3-23 AnGap-12
___ 03:21AM BLOOD Calcium-6.9* Phos-2.3* Mg-1.8

STUDIES

EGD ___:  
Impression: Varices at the lower third of the esophagus 
(ligation)  
Varices at the fundus. Granularity and abnormal vascularity in 
the whole stomach compatible with portal hypertensive 
gastropathy  
.  
Doppler U/S of Abdomen ___:  
IMPRESSION:  
1. Diffusely heterogeneous hepatic echogenicity and coarse 
texture consistent with cirrhosis. A small approximately 1-cm 
left hepatic lobe lesion. Further characterization with MR is 
recommended. Small hepatic lesions may remain sonographically 
occult in the setting of background cirrhosis.  
2. Trace Ascites.  
3. Gallbladder sludge and stones. No evidence of acute 
cholecystitis.  
4. Reanalized paraumbilical vein with varicoid segment measuring 
up to 2 cm.  

 
Brief Hospital Course:
#. UGIB: Patient was admitted to the ___ from ___ 
___ for ?TIPS procedure given gastric varices. 2 large bore 
IVs were placed. Type and cross for 4 units was sent. Hepatology 
was consulted. Performed EGD and found non-bleeding varices and 
gastropathy as above. 4 bands were placed on esophageal varices. 
Hct remained stable s/p total of 6units pRBCs at around 31. 
Patient was kept on octreotide drip, PPI BID, ceftriaxone for 
bacteremia from variceal bleed. After EGD patient was started on 
sucralfate and diet was advanced. Pt's Hct remained stable on 
the floor. Pt was started on nadalol. Pt's octreotide gtt was 
d/c'd. Pt had no futher episodes of bleeding. Appointments were 
made to have a repeat EGD in 2 wks. 

#. Cirrhosis: Patient with evidence of cirrhosis from MR from 
___. Cirrhosis likely ___ EtOH and HCV. Patient remained 
with good mental status throughout MICU course. No need for 
lactulose. The cause for decompesnation was investigated. Pt had 
a normal AFP 4.1, and liver MRI done which showed marked 
nodularity without any masses suggestive of HCC. It was 
recommended given the diffuse abnormality, followup MRI in four 
months is suggested. HIV was also negative.

#. EtOH abuse: Patient was started on ___ protocol and did not 
require valium overnight but did receive versed and fentanyl for 
procedure. Received MVI, thiamine, folate.

 
Medications on Admission:
Meds at home:  
Prilosec OTC QD  
.  
Meds on transfer:  
Ceftriaxone 1 gm IV Q24H  
Octreotide Acetate 50 mcg/hr IV infusion  
Pantoprazole 40 mg PO Q12H  
Sucralfate 1 gm PO QID  
Folic Acid 1 mg PO DAILY  
Multivitamins 1 TAB PO DAILY  
Thiamine 100 mg PO DAILY  
Acetaminophen 325-650 mg PO Q6H:PRN 

 
Discharge Medications:
1. Nadolol 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day) for 2 weeks.
Disp:*56 Tablet(s)* Refills:*0*
3. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
4. Prilosec 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
5. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- ruptured esophageal varices - causing hematemesis and melana

Secondary diagnosis:
- End-stage liver disease
- Hepatitis C
- alcohol abuse
- history of previous variceal bleed

 
Discharge Condition:
good, vitals stable, Hct stable, no longer having 
hematemsis/coffe-ground emesis

 
Discharge Instructions:
You were vomitting blood because of decompensated liver disease, 
i.e., worsening of your cirrhosis. The liver disease caused the 
pressure in the vessesls of the esophagus to get higher until 
they burst under pressure. These esophageal varices were banded 
under EGD(endoscopy) and you were given medications to stop the 
bleeding. You were monitered until you were stable to go home. 
You should completely stop drinking all together. 

Medication changes:
- nadalol 20mg once per day to decrease the pressure of these 
esophageal blood vessesls
- take sucrulfate 1g four times a day for 2 weeks to help 
protect your stomach
- your prilosec was increased to twice per day
- also take thiamine, folate, and a multivitamin everyday

If you begin vomitting blood again or have coffee-ground like 
vomit, have a temp > 100.4, dark-black tarry stools, become 
confused, or your abdomen becomes significantly swollen - then 
return to the ED immediately.
 
Followup Instructions:
___